US04138488
A. 5-[Bis-(4-Chlorophenyl)-Methyl]-2-Pyridone
Combine 50.6 g. (0.2 mole) of 4,4'-dichlorobenzhydrol with 57.1 g. (0.6 mole) of 2-hydroxy pyridine, with stirring heat to 200° C. and add dropwise 1.0 ml. of concentrated sulfuric acid. Increase the reaction temperature to 240°-250° C. and maintain at that temperature range while collecting water emanating from the reaction. Cool the reaction mixture, add a mixture of ethyl acetate and water with stirring and separate the liquid phases. Dry the organic phase, reduce the volume of ethyl acetate, cool to precipitate the crude product, yield 43 g. Crystallization from ethanol affords the product of this step, m.p. 211°-215° C.

reactant | 4,4'-dichlorobenzhydrol | 0.2 mole | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)O)C=C1 | C13H10Cl2O
reactant | 2-hydroxy pyridine | 0.6 mole | OC1=NC=CC=C1 | C5H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[Bis-(4-Chlorophenyl)-Methyl]-2-Pyridone | ClC1=CC=C(C=C1)C(C=1C=CC(NC1)=O)C1=CC=C(C=C1)Cl | C18H13Cl2NO
